US07960394B2
(6) Production of 3-amino-5-bromo-N-methylpyridine-2-carboxamide
3-Amino-5-bromopyridine-2-carboxylic acid (500 mg, 2.30 mmol) and N′,N-carbonyldiimidazole (410 mg, 2.53 mmol) were stirred in DMF (5 mL) at 40° C. for 2 hours. After cooled to room temperature, methylamine (2.0 M in THF, 2.3 mL) was added thereto and further stirred at room temperature for 1 hour. The solvent was evaporated off under reduced pressure, and the residue was purified through silica gel column chromatography (chloroform/methanol=9/1 to 4/1) to obtain the intended compound (4.99 g, 94%) as a milky white solid.

reactant | 3-Amino-5-bromopyridine-2-carboxylic acid | 2.30 mmol, 500 mg | NC=1C(=NC=C(C1)Br)C(=O)O | C6H5BrN2O2
reactant | methylamine | 2.0 M, 2.3 mL | CN | CH5N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-amino-5-bromo-N-methylpyridine-2-carboxamide | 4.99 g, 94% | NC=1C(=NC=C(C1)Br)C(=O)NC | C7H8BrN3O
